US04394159
Forty-eight grams of isobutylamine and 75.5 gm of 2,3,4-trichloronitrobenzene were dissolved in 200 ml of toluene and kept at room temperature for 3 days. The mixture was then treated with a further 5 gm of isobutylamine and heated to 60° C. for 4 hours. The toluene solution was shaken with water, dried, and evaporated. The yield was 86 gm of 2,3-dichloro-6-nitro-N-isobutylaniline (98% of theory), which was obtained as a brownish oil.

reactant | isobutylamine | Forty-eight grams | C(C(C)C)N | C4H11N
reactant | 2,3,4-trichloronitrobenzene | 75.5 gm | ClC1=C(C=CC(=C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | isobutylamine | 5 gm | C(C(C)C)N | C4H11N
reactant | water | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dichloro-6-nitro-N-isobutylaniline | yield was 86 gm, 98% | ClC1=C(NCC(C)C)C(=CC=C1Cl)[N+](=O)[O-] | C10H12Cl2N2O2
